US04973592
To a mixture of 2-nitroiminohexahydropyrimidin-5-yl diphenylacetate (0.4 g) and methyl iodide (0.16 g) in DMF (4 ml), 80% sodium hydride (0.06 g) was added. The mixture was then stirred at room temperature overnight. The solvent was removed and the residue taken up with methylene chloride/water. The organic layer was evaporated and the residue was purified by column chromatography (eluent methylene chloride/methanol 98:2) to afford 1-methyl-2-nitroiminohexahydropyrimidin-5-yl diphenylacetate. M.p. 187° C.

reactant | 2-nitroiminohexahydropyrimidin-5-yl diphenylacetate | 0.4 g | C1(=CC=CC=C1)C(C(=O)OC1CNC(NC1)=N[N+](=O)[O-])C1=CC=CC=C1 | C18H18N4O4
reactant | methyl iodide | 0.16 g | CI | CH3I
reactant | sodium hydride | 0.06 g | [H-].[Na+]
solvent | DMF | 4 ml | CN(C)C=O | C3H7NO
product | 1-methyl-2-nitroiminohexahydropyrimidin-5-yl diphenylacetate | C1(=CC=CC=C1)C(C(=O)OC1CNC(N(C1)C)=N[N+](=O)[O-])C1=CC=CC=C1 | C19H20N4O4
